US04548926
N-Benzyloxycarbonyl-L-phenylalanyl-L-histidyl-L-leucinol(Compound No. 10)
To a solution of 0.91 g. (2 mmole) of N-benzyloxycarbonyl-L-phenylalanyl-L-histidine hydrazide in 32 ml. of dimethylformamide was added 1.64 ml. of a 4.1N solution of hydrogen chloride in dioxane. The mixture was cooled to -60° C., and there was added 0.4 ml. of isopentyl nitrite. The temperature of the resulting mixture was then raised to -20° C. After confirming the disappearance of the hydrazide, the temperature of the mixture was lowered to -60° C., and then the mixture was neutralized by the addition of 0.8 g. of N-methylmorpholine. To the mixture was added 0.28 g. (2.4 mmole) of L-leucinol and the mixture was stirred at 4° C. for 23 hours; the solvent was then removed by distillation under reduced pressure, and water was added to the residue to form a colourless precipitate, which was separated by filtration and washed thoroughly with water and then with ethyl acetate. There was obtained 0.94 g. of the desired compound as a white powdery solid, melting at 181°-183° C.; [α]22 -19.4° (C=0.5, methanol).

reactant | N-benzyloxycarbonyl-L-phenylalanyl-L-histidine hydrazide | 2 mmole | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)NN | C23H26N6O4
reactant | hydrogen chloride | Cl | ClH
reactant | isopentyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | L-leucinol | 2.4 mmole | N[C@@H](CC(C)C)CO | C6H15NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Benzyloxycarbonyl-L-phenylalanyl-L-histidyl-L-leucinol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO | C29H37N5O5
